US05047411
A solution of 2-[2-(3-benzyloxy-4-nitrophenyl)vinyl]-7-methylimidazo[1,2-a]pyridine (9.00 g) in N,N-dimethylformamide (50 ml), was added dropwise to a solution of phosphorus oxychloride (6.36 ml) in N,N-dimethylformamide (90 ml) at ambient temperature with stirring. After the mixture was stirred for 6 hours, the solvent was evaporated in vacuo. The residue was mixed with water (200 ml) and dichloromethane (300 ml) and made basic with aqueous potassium carbonate. The resulting precipitate was collected, washed with water and recrystallized from a mixture of methanol, chloroform and dioxane to give 2-[2-(3-benzyloxy-4-nitrophenyl)vinyl]-3-formyl-7-methylimidazo[1,2-a]pyridine (5.15 g).

reactant | 2-[2-(3-benzyloxy-4-nitrophenyl)vinyl]-7-methylimidazo[1,2-a]pyridine | 9.00 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])C=CC=1N=C2N(C=CC(=C2)C)C1 | C23H19N3O3
reactant | phosphorus oxychloride | 6.36 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 2-[2-(3-benzyloxy-4-nitrophenyl)vinyl]-3-formyl-7-methylimidazo[1,2-a]pyridine | 5.15 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])C=CC=1N=C2N(C=CC(=C2)C)C1C=O | C24H19N3O4
